US06770669B1
1.1. N-methyl-N-(4-nitrobenzyl)-2-propyn-1-amine
3.72 g (22.0 mmol) of p-nitrobenzyl chloride in 20 ml of dichloromethane is added, dropwise, at 0° C. to a solution of 1 g (1.45 mmol) of N-methylpropargylamine in 15 ml of dichloromethane and 3.1 ml of triethylamine. After stirring overnight, the reaction mixture is concentrated to dryness under vacuum, and the residue is diluted with dichloromethane and 40 ml of a saturated solution of NaCl. After stirring and decanting, the organic phase is separated and dried over magnesium sulphate, filtered and concentrated under vacuum. The expected product is obtained after chromatography on a silica column, eluent: (20% ethyl acetate in heptane), the pure fractions, after evaporation, produce a brown solid with a yield of 80%. Melting point 47-49° C.

reactant | p-nitrobenzyl chloride | 22.0 mmol, 3.72 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | N-methylpropargylamine | 1.45 mmol, 1 g | CNCC#C | C4H7N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
product | N-methyl-N-(4-nitrobenzyl)-2-propyn-1-amine | yield of 80% | CN(CC#C)CC1=CC=C(C=C1)[N+](=O)[O-] | C11H12N2O2
